US04612318
5-Methoxy-3,6,7,8-tetrahydro-1,3-dimethylcyclopenta[d]pyrazolo[3,4-b]-pyridine
A mixture of 4-(1,2,5,6-tetrahydro-1-methyl-4-pyridinyl)-1,3-dimethyl-5-(1H)-pyrazolamine (2.06 g; 0.01 mol), 3,4-lutidine (20 ml), ethyl isocyanate (3.16 ml; 0.04 mol), under anhydrous conditions, are heated to the reflux temperature for about 3 hours. The mixture is then cooled to room temperature, concentrated under reduced pressure, washed with ethyl acetate and then with ethyl ether, thus obtaining the product of the title. M.p. 294°-297° C.

reactant | 4-(1,2,5,6-tetrahydro-1-methyl-4-pyridinyl)-1,3-dimethyl-5-(1H)-pyrazolamine | 0.01 mol, 2.06 g | CN1CC=C(CC1)C=1C(=NN(C1N)C)C | C11H18N4
reactant | ethyl isocyanate | 0.04 mol, 3.16 ml | C(C)N=C=O | C3H5NO
reactant | 3,4-lutidine | 20 ml | N1=CC(=C(C=C1)C)C | C7H9N
product | 5-Methoxy-3,6,7,8-tetrahydro-1,3-dimethylcyclopenta[d]pyrazolo[3,4-b]-pyridine | COC1=C2C(=C3C(=N1)N(N=C3C)C)CCC2 | C12H15N3O
